US04362728
A mixture of 2,4-diamino-6-[5-(2-methanesulphonyl-3-methylguanidino)pentyl]-1,3,5-triazine (0.4 g.), 2,2,2-trifluoroethylisothiocyanate (0.4 g.) and dimethylformamide (0.5 ml.) was heated at 120° for 1 hour and then at 60° for 18 hours. The mixture was evaporated to dryness, the residue partitioned between water and ethyl acetate, and the ethyl phase was separated, dried, and evaporated to dryness. The residue was dissolved in saturated ethanolic ammonia (10 ml.) and the solution treated with yellow mercuric oxide (0.5 g.). The mixture was stirred at room temperature for 18 hours, filtered and the filtrate evaporated to dryness. The residue was purified by chromatography using ethyl acetate/methanol/ammonia 6:1:0.5 v/v/v as developing solvent to give 2-amino-4-[2-(2,2,2-trifluoroethyl)-guanidino]-6-[5-(2-methanesulphonyl-3-methylguanidino)-pentyl]-1,3,5-triazine (0.07 g.) characterised as the bishydrogen maleate, m.p. 131°-133° after recrystallisation from acetone.

reactant | 2,4-diamino-6-[5-(2-methanesulphonyl-3-methylguanidino)pentyl]-1,3,5-triazine | 0.4 g | NC1=NC(=NC(=N1)N)CCCCCNC(=NS(=O)(=O)C)NC | C11H22N8O2S
reactant | 2,2,2-trifluoroethylisothiocyanate | 0.4 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 2-amino-4-[2-(2,2,2-trifluoroethyl)-guanidino]-6-[5-(2-methanesulphonyl-3-methylguanidino)-pentyl]-1,3,5-triazine | 0.07 g | NC1=NC(=NC(=N1)NC(=NCC(F)(F)F)N)CCCCCNC(=NS(=O)(=O)C)NC | C14H25F3N10O2S
